US06103708
(2-Ethyl-benzofuran-3-yl)-(2'-methoxy-[1,1';3',1"]terphenyl-5'-yl)-methanon
The title compound was prepared according to the procedure in Example 5, step 2 using 2'-methoxy-[1,1';3',1"]terphenyl-5'-carboxylic acid (1.031 g, 3.388 mmol), oxalyl chloride (0.325 mL, 3.727 mmol), commercial 2-ethylbenzofuran (0.4953 g, 3.388 mmol) and tin (IV) chloride (0.436 mL, 3.727 mmol) in CH2Cl2. Purification on Biotage KP-Sil eluting with 3% EtOAc/pet. ether gave 1.070 g, (73%) of the title compound. 1H NMR (DMSO-d6) δ 1.24 (t, 3 H), 2.90 (quartet, 2 H), 3.21 (s, 3 H), 7.30-7.67 (m, 14 H), 7.75 (s, 2 H).

reactant | 2'-methoxy-[1,1';3',1"]terphenyl-5'-carboxylic acid | 3.388 mmol, 1.031 g | COC1=C(C=C(C=C1C1=CC=CC=C1)C(=O)O)C1=CC=CC=C1 | C20H16O3
reactant | oxalyl chloride | 3.727 mmol, 0.325 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-ethylbenzofuran | 3.388 mmol, 0.4953 g | C(C)C=1OC2=C(C1)C=CC=C2 | C10H10O
reactant | tin (IV) chloride | 3.727 mmol, 0.436 mL | [Sn](Cl)(Cl)(Cl)Cl
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (2-Ethyl-benzofuran-3-yl)-(2'-methoxy-[1,1';3',1"]terphenyl-5'-yl)-methanon | 73% | C(C)C=1OC2=C(C1C(=O)C=1C=C(C(=C(C1)C1=CC=CC=C1)OC)C1=CC=CC=C1)C=CC=C2 | C30H24O3
